US07947738B2
(14-g) Tert-butyl(±)-[(1S,5R)-3-cyclopentylbicyclo[3.2.0]hept-3-en-6-ylidene]acetate (E/Z mixture)
A tetrahydrofuran (15 mL) solution of tert-butyl dimethylphosphonoacetate (3.21 g, 14.4 mmol) was added dropwise at 0° C. over 15 minutes to a tetrahydrofuran (15 mL) suspension of sodium hydride (0.59 g, 63%, 15.7 mmol), and the mixture was stirred at 0° C. for 25 minutes. To this solution, a tetrahydrofuran (15 mL) solution of 3-cyclopentylbicyclo[3.2.0]hept-3-en-6-one (2.30 g, 13.1 mmol) was added dropwise at 0° C. over 10 minutes, and the mixture was stirred at room temperature for 16 hours. The mixture was treated with water, followed by extraction with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a yellow oil substance (3.30 g, 92%).

reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | tert-butyl dimethylphosphonoacetate | 14.4 mmol, 3.21 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 15.7 mmol, 0.59 g | [H-].[Na+]
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 3-cyclopentylbicyclo[3.2.0]hept-3-en-6-one | 13.1 mmol, 2.30 g | C1(CCCC1)C=1CC2CC(C2C1)=O | C12H16O
solvent | water | O | H2O
product | Tert-butyl(±)-[(1S,5R)-3-cyclopentylbicyclo[3.2.0]hept-3-en-6-ylidene]acetate | C1(CCCC1)C=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C18H26O2
